US04076728
A process for preparing 3,3-bis(4-dimethylaminophenyl)-6-dimethylaminophthalide which comprises reacting one mole proportion of tetramethyl-4,4'-diaminobenzhydrol with from about 0.9 to about 1.2 mole proportions of 3-dimethylaminobenzoic acid in aqueous sulfuric acid at a temperature of 65°-100° C. to form 2-[4,4'-bis(dimethylamino)benzhydryl]-5-dimethylaminobenzoic acid, adding sodium hydroxide to the reaction mixture to form the sodium salt of the said benzoic acid therein, contacting the reaction mixture at a temperature of about 40°-90° C. with a solvent selected from a liquid aromatic hydrocarbon and a mixture of liquid aromatic hydrocarbon and a water-immiscible alkane, whereby impurities present in said solution are extracted therefrom; separating the organic extract phase from the aqueous reaction mixture phase, treating the reaction mixture phase with an inorganic oxidizing agent to oxidize the sodium salt of the 2-[4,4'-bis(dimethylamino)benzhydryl]-5-dimethylaminobenzoic acid to the 3,3-bis-(4-dimethylaminophenyl)-6-dimethylaminophthalide product and recovering said product from the reaction mixture.

reactant | 3,3-bis(4-dimethylaminophenyl)-6-dimethylaminophthalide | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC(=CC=C12)N(C)C)C1=CC=C(C=C1)N(C)C)C | C26H29N3O2
reactant | tetramethyl-4,4'-diaminobenzhydrol | CC=1C(=C(C(=C(C(C2=CC=C(C=C2)N)(O)C)C1)C)C)N | C17H22N2O
reactant | 3-dimethylaminobenzoic acid | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-[4,4'-bis(dimethylamino)benzhydryl]-5-dimethylaminobenzoic acid | CN(C1=CC=C(C(C2=CC=C(C=C2)N(C)C)C2=C(C(=O)O)C=C(C=C2)N(C)C)C=C1)C | C26H31N3O2
